US04794183
6-Benzyloxymethyl-3,4-dihydro-2H-pyran
A solution of 5.71 g of 6-hydroxymethyl-3,4-dihydro-2H-pyran in 100 ml of dimethylformamide was added dropwise, whilst ice-cooling, to a mixture of 2.18 g of a 55% w/w suspension of sodium hydride in mineral oil and 100 ml of dimethylformamide. The mixture was stirred at room temperature for 60 minutes, after which 6.33 g of benzyl chloride were added. The reaction mixture was stirred for 16 hours, and then poured into 1 liter of water and extracted twice with ethyl acetate. The extract was washed with water, dried and condensed by evaporation under reduced pressure. The oily residue, 13 g, was subjected to column chromatography through 200 g of silica gel. The fraction eluted with mixtures of diethyl ether and hexane ranging from 4:100 to 5:100 by volume gave 9.40 g of the title compound as a colorless oily substance, boiling at 125°-130° C. (bath temperature)/1 mmHg (133 Pa).

reactant | 6-hydroxymethyl-3,4-dihydro-2H-pyran | 5.71 g | OCC1=CCCCO1 | C6H10O2
reactant | sodium hydride | [H-].[Na+]
reactant | benzyl chloride | 6.33 g | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | water | 1 liter | O | H2O
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 6-Benzyloxymethyl-3,4-dihydro-2H-pyran | 9.40 g | C(C1=CC=CC=C1)OCC1=CCCCO1 | C13H16O2
